US08808703B2
Step 2: (S)-diethyl (2-(2-(2-(2-aminopropanamido)ethoxy)ethoxy)ethyl)phosphonate
A solution of (S)-tert-butyl (1-((2-(2-(2-(diethoxyphosphoryl)ethoxy)ethoxy)ethyl)amino)-1-oxopropan-2-yl)carbamate (1 eq) in 4N HCl/dioxane (0.4 M) was stirred at 25° C. for 1 hour. The reaction mixture was concentrated en vaccuo to give the title product as a colorless viscous oil.

reactant | (S)-tert-butyl (1-((2-(2-(2-(diethoxyphosphoryl)ethoxy)ethoxy)ethyl)amino)-1-oxopropan-2-yl)carbamate | 1 eq | C(C)OP(=O)(OCC)CCOCCOCCNC([C@H](C)NC(OC(C)(C)C)=O)=O | C18H37N2O8P
solvent | HCl dioxane | 4N | Cl.O1CCOCC1
product | (S)-diethyl (2-(2-(2-(2-aminopropanamido)ethoxy)ethoxy)ethyl)phosphonate | N[C@H](C(=O)NCCOCCOCCP(OCC)(OCC)=O)C | C13H29N2O6P
